US07494993B2
3-(5-Amino-2-chloro-phenyl)-7-methanesulfonyl-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
5.94 g 3-(2-chloro-5-nitro-phenyl)-7-methanesulfonyl-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one were dissolved in 200 mL tetrahydrofuran. Pd(CaCO3)/C was added to the solution which was then treated with hydrogen (1 atm) for 18 h. The solution was then filtrated and the solvent evaporated. The residue was extracted with diethyl ether and the title product obtained in 98% yield.

reactant | 3-(2-chloro-5-nitro-phenyl)-7-methanesulfonyl-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 5.94 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12ClN5O5S
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-(5-Amino-2-chloro-phenyl)-7-methanesulfonyl-1-methyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 98% yield | NC=1C=CC(=C(C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O)Cl | C14H14ClN5O3S
